US09145409B2
Intermediate 7. tert-Butyl ((3-hydroxyphenyl)(phenyl)methyl)carbamate (I7)
3-(Amino(phenyl)methyl)phenol hydrochloride (I6e, 29.09 g, 123.4 mmol) in dichloromethane (450 mL) was cooled to 0° C. and diisopropylethylamine (65.9 mL, 370.2 mmol) and di-tert-butyl dicarbonate (59.2 g, 271.5 mmol) was added slowly. The reaction was stirred at 0° C. for 2 hours then warmed to RT over 16 hours. The solvent was removed and the residue purified through a silica plug, eluting with 0-20% ethyl acetate in iso-hexane to give a black oil. To this mixture in methanol (300 mL) was added potassium carbonate (51 g, 370.2 mmol) and stirred at RT for 16 hours. The suspension was filtered, the filtrate was evaporated at reduced pressure and the residue redissolved in ethyl acetate (370 mL). Silica (73 g) was added and the suspension was stirred for 30 minutes, filtered, and the filter cake washed with further ethyl acetate. The filtrate was evaporated to dryness. The dark solid residue was dissolved in ethyl acetate (200 mL), charcoal was added and the suspension was heated under refluxed for 1 hour. The suspension was filtered through celite and the solvent removed at reduced pressure. The dark solid was dissolved in dichloromethane, iso-hexane was added and the solvent evaporated (repeated 3 times) to give the title compound as a yellow solid (34.81 g, 92%). 1H NMR (400 MHz, CDCl3): δ 7.36-7.16 (m, 6 H); 6.80 (d, J=7.79 Hz, 1 H); 6.74-6.69 (m, 2 H); 5.83 (s, 1 H); 5.15 (s, 1 H); 1.53-1.30 (s, 9 H).

reactant | 3-(Amino(phenyl)methyl)phenol hydrochloride | 123.4 mmol, 29.09 g | Cl.NC(C=1C=C(C=CC1)O)C1=CC=CC=C1
reactant | diisopropylethylamine | 370.2 mmol, 65.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 271.5 mmol, 59.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 370.2 mmol, 51 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
solvent | methanol | 300 mL | CO | CH4O
product | tert-Butyl ((3-hydroxyphenyl)(phenyl)methyl)carbamate | 34.81 g, 92% | OC=1C=C(C=CC1)C(C1=CC=CC=C1)NC(OC(C)(C)C)=O | C18H21NO3
